US05547949
Preparation of 2,4-bis(cyclopentylamino)-6-chloropyrimidine
5.0 g of 2-(cyclopentylamino)-4,6-dichloropyrimidine are dissolved in 25 ml of isopropanol, 7.5 ml of cyclopentylamine are added thereto and the reaction mixture is boiled for 6 hours. Then the reaction mixture is evaporated, the residue is separated between 80 ml of chloroform and 15 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 20 ml of water each, then dried and evaporated. The title compound is obtained after recrystallization from hexane in a yield of 5.24 g (86.7%), m.p.:94°-98° C.

reactant | 2-(cyclopentylamino)-4,6-dichloropyrimidine | 5.0 g | C1(CCCC1)NC1=NC(=CC(=N1)Cl)Cl | C9H11Cl2N3
reactant | cyclopentylamine | 7.5 ml | C1(CCCC1)N | C5H11N
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 2,4-bis(cyclopentylamino)-6-chloropyrimidine | C1(CCCC1)NC1=NC(=CC(=N1)NC1CCCC1)Cl | C14H21ClN4
